US05116829
9-Chloro-21-[2-(formylamino)-4-methylthio-1-oxobutylthio]-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione (Compound No. 2)
The title compound (0.51 gm) was prepared from 9-chloro-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione-21-thiol (0.85 gm) and N-formyl-L-methionine (1.15 gm) in the same manner as in Synthetic Example 1.

reactant | 9-chloro-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione-21-thiol | 0.85 gm | Cl[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@@H]([C@](C(CS)=O)([C@]1(C[C@@H]2O)C)O)C)=O)C | C22H29ClO4S
reactant | N-formyl-L-methionine | 1.15 gm | C(=O)N[C@@H](CCSC)C(=O)O | C6H11NO3S
product | 9-Chloro-21-[2-(formylamino)-4-methylthio-1-oxobutylthio]-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione | 0.51 gm | Cl[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@@H]([C@](C(CSC(C(CCSC)NC=O)=O)=O)([C@]1(C[C@@H]2O)C)O)C)=O)C | C28H38ClNO6S2
